US05021577
1,10-Bis(4-benzyloxy-2,2,6,6-tetramethylpiperidin-1-yloxy)decane
The title compound is prepared from 4-benzyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine and 1,10-diiododecane according to the procedure of Example 5.

reactant | 4-benzyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine | C(C1=CC=CC=C1)OC1CC(N(C(C1)(C)C)O)(C)C | C16H25NO2
reactant | 1,10-diiododecane | ICCCCCCCCCCI | C10H20I2
product | 1,10-Bis(4-benzyloxy-2,2,6,6-tetramethylpiperidin-1-yloxy)decane | C(C1=CC=CC=C1)OC1CC(N(C(C1)(C)C)OCCCCCCCCCCON1C(CC(CC1(C)C)OCC1=CC=CC=C1)(C)C)(C)C | C42H68N2O4
